US07098333B2
N-benzyl-N′-(4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidin-2-yl)urea (Example 9)
A solution of 4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine-2-amine (192 mg, 0.96 mmol) in THF (3 mL) was treated with benzyl isocyanate (118 μL, 0.96 mmol), stirred at room temperature for 16 h and the resulting solid filtered and washed with EtOAc to give the title compound (61 mg, 19%) as a yellow solid.

reactant | 4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine-2-amine | 0.96 mmol, 192 mg | O1C(=CC=C1)C1=C2C(NC(=N1)N)=NC=C2 | C10H8N4O
reactant | benzyl isocyanate | 0.96 mmol, 118 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-benzyl-N′-(4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidin-2-yl)urea | 61 mg, 19% | C(C1=CC=CC=C1)NC(=O)NC1=NC(=C2C(N1)=NC=C2)C=2OC=CC2 | C18H15N5O2
